US07851634B2
d) 5-{1-Amino-3-(3-[3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-indol-5-yl-methyl]-4-methylpentyl}-3-isopropyldihydrofuran-2-one
The stirred solution of 1.86 g of 2-[2 azido-2-(4-isopropyl-5-oxotetrahydrofuran-2-yl)ethyl]-1-[3-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-indol-5-yl]-3-methylbutyl methoxyacetate (diastereomer mixture) in 100 ml of ethanol is hydrogenated at 0° C. in the presence of 0.165 ml of ethanolamine and 1.88 g of 10% Pd/C over 6 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The residue is admixed with 100 ml of 1M sodium hydrogencarbonate solution and extracted with tert-butyl methyl ether (3×). The combined organic phases are dried over sodium sulphate and filtered, and the filtrate is concentrated by evaporation. The crude title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60 F). Rt=24.2 (gradient II).

reactant | 2-[2 azido-2-(4-isopropyl-5-oxotetrahydrofuran-2-yl)ethyl]-1-[3-(3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-indol-5-yl]-3-methylbutyl methoxyacetate | 1.86 g | COCC(=O)OC(C(C(C)C)CC(C1OC(C(C1)C(C)C)=O)N=[N+]=[N-])C=1C=C2C(=CN(C2=CC1)COCC[Si](C)(C)C)CCCOC | C35H56N4O7Si
reactant | ethanolamine | 0.165 ml | C(O)CN | C2H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.88 g | [Pd] | Pd
product | 5-{1-Amino-3-(3-[3-methoxypropyl)-1-(2-trimethylsilanylethoxymethyl)-1H-indol-5-yl-methyl]-4-methylpentyl}-3-isopropyldihydrofuran-2-one | NC(CC(C(C)C)CC=1C=C2C(=CN(C2=CC1)COCC[Si](C)(C)C)CCCOC)C1CC(C(O1)=O)C(C)C | C32H54N2O4Si
